US08058432B2
Step 2: Synthesis of 2-amino-5-(N-formyl-N-methylamino-methyl)benzoic acid methyl ester
There was dissolved, in 34 mL of methanol, 4.47 g of the crude product of 5-(N-formyl-N-methylamino-methyl)-2-nitrobenzoic acid methyl ester, prepare in the step 1, 5% Pd/C (wet product) was added to the solution in an argon gas atmosphere and then hydrogen gas was introduced into the reaction container. The reaction system was stirred at a reaction temperature of 40° C. for 8 hours, the hydrogen gas was replaced with argon gas, 14 mL of methanol was then added to the reaction system and the temperature thereof was raised up to 55° C. The Pd/C catalyst was removed through filtration under reduced pressure, the catalyst was washed with 25 mL of methanol and the resulting filtrate and the wash liquid were maintained at a temperature of 40° C. Water (31 mL) was dropwise added thereto thus separate out solid and the resulting slurry was stirred at 10° C. overnight. The resulting solid was separated from the slurry through filtration under reduced pressure, washed with 7 mL of water and then dried under reduced pressure at 70° C. for 5 hours to give 2.53 g of the title compound as a white solid.

reactant | 5-(N-formyl-N-methylamino-methyl)-2-nitrobenzoic acid methyl ester | COC(C1=C(C=CC(=C1)CN(C)C=O)[N+](=O)[O-])=O | C11H12N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 34 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 14 mL | CO | CH4O
product | 2-amino-5-(N-formyl-N-methylamino-methyl)benzoic acid methyl ester | 2.53 g | COC(C1=C(C=CC(=C1)CN(C)C=O)N)=O | C11H14N2O3
